US05668245
Preparation of 2-(2,4-Dichlorophenyl)benzoxazole
A 2.0 L, three-necked, round-bottomed flask equipped with a mechanical stirrer, a condenser containing a nitrogen inlet valve, and a thermometer was charged with 250 g of 2,4-dichlorobenzoic acid, 157.1 g of 2-aminophenol, and 250 mL of polyphosphoric acid. The mixture was heated under nitrogen for 16 h. The solution was cooled to 140° C. and was poured over a chilled 1M aqueous sodium hydroxide solution. The solid brown precipitate was collected by filtration. The material was then vacuum distilled with a head temperature of 160°-180° C. The solid was recrystallized from toluene and dried in a vacuum oven at 80° C. for 12 h. Yield 257 g (74%); mp=130.6-131.3.

reactant | 2,4-dichlorobenzoic acid | 250 g | ClC1=C(C(=O)O)C=CC(=C1)Cl | C7H4Cl2O2
reactant | 2-aminophenol | 157.1 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | sodium hydroxide | 1M | [OH-].[Na+]
product | 2-(2,4-Dichlorophenyl)benzoxazole | ClC1=C(C=CC(=C1)Cl)C=1OC2=C(N1)C=CC=C2 | C13H7Cl2NO
